US08236826B2
Production of 3-[4-(5-nitropyridin-2-yloxy)phenyl]-n-propanol
To a solution of 3-[4-(5-nitropyridin-2-yloxy)phenyl]propionic acid (2.64 g, 9.2 mmol) in THF (50 mL) was added dropwise a 1 M borane-THF complex THF solution (38.4 mL, 38.4 mmol) under ice cooling. The reaction solution was stirred for 2 hours at room temperature. Water was added to the reaction mixture, and extracted with ethyl acetate, and the ethyl acetate layer was washed with water and then brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate, after which solvent was evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1), to thereby yield 1.17 g of the title compound.

reactant | 3-[4-(5-nitropyridin-2-yloxy)phenyl]propionic acid | 9.2 mmol, 2.64 g | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)CCC(=O)O | C14H12N2O5
reactant | borane THF | 38.4 mmol, 1 M, 38.4 mL | B.C1CCOC1
reactant | Water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-[4-(5-nitropyridin-2-yloxy)phenyl]-n-propanol | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)CCCO | C14H14N2O4
